US04341775
2-(2-Formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetic acid (syn isomer, 2.6 g.), N,N-dimethylformamide (0.6 g.), phosphoryl chloride (1.2 g.), 7-amino-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (3.2 g.), trimethylsilylacetamide (5.5 g.) and ethyl acetate (65 ml.) were treated in a similar manner to that of Example 6-(1) to give 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 1.3 g.).

reactant | 2-(2-Formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetic acid | 2.6 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCCNC(=O)OC(C)(C)C | C14H20N4O6S
reactant | phosphoryl chloride | 1.2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 3.2 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCNC(=O)OC(C)(C)C)C(=O)O)C1=O | C16H23N7O5S2
reactant | trimethylsilylacetamide | 5.5 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 65 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.6 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 1.3 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCNC(=O)OC(C)(C)C)C(=O)O)C1=O)=NOCCCNC(=O)OC(C)(C)C | C30H41N11O10S3
